US04163785
5-Chloropyrido[2,3-b][1,5]benzothiazepine
40 G 5,6-DIHYDRO-5-OXOPYRIDO[2,3-B][1,5]BENZOTHIAZEPINE ARE ADDED TO A MIXTURE OF 200 CM3PHOSPHORUS OXYCHLORIDE AND 71 G PHOSPHORUS PENTACHLORIDE. The reaction mixture is heated under reflux for 4 hours, then the excess phosphorus oxychloride is eliminated by distillation. The residue is then taken up in 300 cm3 cold chloroform. The organic solution is washed several times with iced water, then dried over magnesium sulphate. The solvents are eliminated by distillation under vacuum at ambient temperature. The residue is taken up in anhydrous ether, then washed several times with cold ether. After drying under vacuum, 37 g 5-chloropyrido[2,3-b][1,5]benzothiazepine are obtained, having a melting point of 134°-135° C.

reactant | 5,6-DIHYDRO-5-OXOPYRIDO[2,3-B][1,5]BENZOTHIAZEPINE | O=C1C2=C(SC3=C(N1)C=CC=C3)N=CC=C2 | C12H8N2OS
reactant | OXYCHLORIDE | O(Cl)Cl | Cl2O
reactant | PHOSPHORUS PENTACHLORIDE | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 5-Chloropyrido[2,3-b][1,5]benzothiazepine | ClC=1C2=C(SC3=C(N1)C=CC=C3)N=CC=C2 | C12H7ClN2S
